US09126998B2
rac-N-(2-Amino-3-hydroxy-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide
Under argon, 800 mg (1.57 mmol) of rac-N-[2-amino-3-(benzyloxy)-2-methylpropyl]-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide Example 263 were initially charged in 16.2 ml of ethanol, and 167 mg of palladium on activated carbon (10%) and 4.77 ml (47.1 mmol) of cyclohexene were added. The reaction mixture was stirred under reflux for 18 h and then applied to Celite and purified by silica gel chromatography (mobile phase: dichloromethane/methanol 10/1, dichloromethane/2N ammonia in methanol 10/1). This gave 366 mg of the target compound (56% of theory; purity 97%).

reactant | rac-N-[2-amino-3-(benzyloxy)-2-methylpropyl]-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 1.57 mmol, 800 mg | NC(CNC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(COCC2=CC=CC=C2)C | C27H28F2N4O3
reactant | cyclohexene | 47.1 mmol, 4.77 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 16.2 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 167 mg | [Pd] | Pd
product | rac-N-(2-Amino-3-hydroxy-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(CO)C | C20H22F2N4O3
